US05859007
2-(2,4-Dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To a stirring solution of 26.6 g (69.7 mmol) 2-(2,4-Dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide, prepared as in Intermediate 46, in 1 L DMF is added 13.3 g (209 mmol, 3 equiv) of Cu powder, 13.7 g (139 mmol, 2 equiv) of potassium acetate and 13.4 mL (139 mmol, 2 equiv) of 3-bromopyridine. The reaction is heated to 120° C. After 5 h, an additional 13 g (133 mmol) of potassium acetate and 15 mL (156 mmol) of 3-bromopyridine were added, and the reaction is allowed to stir overnight. After ca. 18 h, an additional 15 g (236 mmol) Cu and 5 g (51 mmol) potassium acetate were added, and stirring is continued for an additional 24 h. The reaction is then allowed to cool, and is filtered through celite, rinsing with ethyl acetate. The organics were extracted with 10% NH4OH, the twice with water. The aqueous layer is extracted with EtOAc/ethyl ether. The combined organics were dried (MgSO4) filtered and concentrated in vacuo to afford an oil. This is purified by silica gel flash chromatography to afford 15.8 g of the title compound as a white powder as well as 1.5 g of recovered unreacted starting material: 1H NMR (CDCl3, 400 MHz) δ8.68 (s, br, 2H), 7.86 (d, 1H, J=7.8), 7.36 (d, 2H, J=7.6) 7.27-7.10 (m, 6H ) 6.95 (t, 2H, J=7.6) 6.84 (d, 1H, J=7.1) 4.95 (m, 1H), 4.23 (s, br, 2H) 3.82 (s, 3H) 3.53 (dd, 2H, J=12.2, 44) 1.04 (dd, 6H, J=2.4, 6.8); low resolution MS (FAB)m/e (MH+).

reactant | 2-(2,4-Dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 69.7 mmol, 26.6 g | O=C1CC(NC2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)=O | C21H23N3O4
reactant | potassium acetate | 139 mmol, 13.7 g, 2 equiv | C(C)(=O)[O-].[K+]
reactant | 3-bromopyridine | 139 mmol, 13.4 mL, 2 equiv | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium acetate | 133 mmol, 13 g | C(C)(=O)[O-].[K+]
reactant | 3-bromopyridine | 156 mmol, 15 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium acetate | 51 mmol, 5 g | C(C)(=O)[O-].[K+]
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
product | 2-(2,4-Dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 15.8 g | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O | C26H26N4O4
